US20010044538A1
To a solution of 3-(4-fluorophenyl)-1-hydroxy-2-(pyridin-4-yl)-1H-pyrrolo[3,2-b]pyridine (0.20 g, 0.65 mmol) and 2-chloroethylpiperidine hydrochloride (0.24 g, 1.31 mmol) in dimethylformamide (5 ml) was added sodium hydride (100 mg, 6.56 mmol, 60% in oil). The reaction mixture was stirred overnight and quenched with water (2 ml). The pH was adjusted to pH=11-12 by the addition of saturated sodium carbonate solution and the product was extracted into ethyl acetate. The combined extracts were dried over anhydrous MgSO4 and concentrated in vacuo to give an oil. Purified by flash column chromatography (50%-80% ethyl acetate/hexanes, followed by 95/5% methylene chloride/methanol gradient) gave 3-(4-fluorophenyl)-1-[2-(piperidin-1-yl)ethoxy]-2-(pyridin-4-yl)-1H-pyrrolo[3,2-b]pyridine as a yellow solid (182 mg).

reactant | 3-(4-fluorophenyl)-1-hydroxy-2-(pyridin-4-yl)-1H-pyrrolo[3,2-b]pyridine | 0.65 mmol, 0.20 g | FC1=CC=C(C=C1)C1=C(N(C=2C1=NC=CC2)O)C2=CC=NC=C2 | C18H12FN3O
reactant | 2-chloroethylpiperidine hydrochloride | 1.31 mmol, 0.24 g | Cl.ClCCN1CCCCC1
reactant | sodium hydride | 6.56 mmol, 100 mg | [H-].[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-(4-fluorophenyl)-1-[2-(piperidin-1-yl)ethoxy]-2-(pyridin-4-yl)-1H-pyrrolo[3,2-b]pyridine | 182 mg | FC1=CC=C(C=C1)C1=C(N(C=2C1=NC=CC2)OCCN2CCCCC2)C2=CC=NC=C2 | C25H25FN4O
